US06642395B1
3) Preparation of (R)-2-(4-Chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethanol
Into methanol (20 ml) were added (R)-2-(4-chlorophenyl)-2-(1-methoxy-1-methylethyloxy)mandelic acid methyl ester obtained in 2) above (6.0 g) and further, under ice-cooling, sodium borohydride (4.35 g). The resulting mixture was stirred at the same temperature, neutralized and the reaction mixture was concentrated. Ethyl acetate and water were added to the resulting residue and the organic layer was collected by layer separation. The organic layer was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off to obtain a colorless oily compound mentioned above (5.2 g, 96.7%).

reactant | (R)-2-(4-chlorophenyl)-2-(1-methoxy-1-methylethyloxy)mandelic acid methyl ester | COC([C@H](O)C1C(C=CC=C1)(OC(C)(C)OC)C1=CC=C(C=C1)Cl)=O | C19H23ClO5
reactant | sodium borohydride | 4.35 g | [BH4-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | (R)-2-(4-Chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethanol | ClC1=CC=C(C=C1)[C@H](CO)OC(C)(C)OC | C12H17ClO3
